US08604061B2
d) (2S,4S)-2-Amino-4-phenyl-hexan-1-ol
To a suspension of lithium aluminum hydride (121 mg, 3.18 mmol) in tetrahydrofuran (8 ml) was added a solution of (2S,4S)-2-amino-4-phenyl-hexanoic acid methyl ester (320 mg, 1.45 mmol) in tetrahydrofuran (10 ml) and the mixture was stirred for 16 hours. The reaction was quenched by dropwise addition of ethyl acetate, then acidified to pH 5 by addition of hydrochloric acid and then made basic by addition of saturated aqueous sodium bicarbonate solution. The mixture was taken up in ethyl acetate/tetrahydrofuran (1:1), the phases were separated and the organic phase was washed sequentially with water and with saturated brine. The organic phase was then dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: dichloromethane/MeOH) to yield a yellow oil, (116 mg, 42%); MS (ISP): 194.4 ([M+H]+).

reactant | lithium aluminum hydride | 3.18 mmol, 121 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4S)-2-amino-4-phenyl-hexanoic acid methyl ester | 1.45 mmol, 320 mg | COC([C@H](C[C@H](CC)C1=CC=CC=C1)N)=O | C13H19NO2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (2S,4S)-2-Amino-4-phenyl-hexan-1-ol | N[C@H](CO)C[C@H](CC)C1=CC=CC=C1 | C12H19NO
